US20010047031A1
To a 0° C. suspension of LiAlH4 (0.4 g, 10.6 mmol) in dry THF (5 ml) was added dropwise a solution of (RS)-2-fluoro-4-phenyl-butyric acid methyl ester (1 g, 5.3 mmol) in dry THF (10 ml). After 1 hour stirring at 0° C., the reaction mixture was quenched successively with H2O (0.4 ml), 5N NaOH (0.4 ml) and again H2O (1.2 ml). The resulting solid was filtered and the filtrate was concentrated to provide (RS)-2-fluoro-4-phenyl-butan-1-ol (0.89 g, 99%) as a colorless oil, MS: m/e=168.1 (M+).

reactant | LiAlH4 | 10.6 mmol, 0.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (RS)-2-fluoro-4-phenyl-butyric acid methyl ester | 5.3 mmol, 1 g | COC(C(CCC1=CC=CC=C1)F)=O | C11H13FO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (RS)-2-fluoro-4-phenyl-butan-1-ol | 0.89 g, 99% | FC(CO)CCC1=CC=CC=C1 | C10H13FO
